US05116861
To the solution of (N-γ-L-glutamyl-D-penicillamyl)glycine hydrochloride (0.5 g) in methanol (5 ml), was added at 0° C. the solution of ethyl nitrite in ethanol (10%) (1.1 ml). At the same temperature a drop of 4N-hydrochloric acid-methanol solution was added, and the mixture was stirred for 30 minutes. The solvent was evaporated off under reduced pressure, and the resultant crystals were washed with diethyl ether, to give (N-γ-L-glutamyl-S-nitroso-L-penicillamyl)glycine hydrochloride (0.5 g).

reactant | (N-γ-L-glutamyl-D-penicillamyl)glycine hydrochloride | 0.5 g | Cl.N[C@@H](CCC(=O)N[C@H](C(C)(C)S)C(=O)NCC(=O)O)C(=O)O
reactant | ethyl nitrite | N(=O)OCC | C2H5NO2
reactant | hydrochloric acid methanol | Cl.CO
solvent | methanol | 5 ml | CO | CH4O
solvent | ethanol | 1.1 ml | C(C)O | C2H6O
product | (N-γ-L-glutamyl-S-nitroso-L-penicillamyl)glycine hydrochloride | 0.5 g | Cl.N[C@@H](CCC(=O)N[C@@H](C(C)(C)SN=O)C(=O)NCC(=O)O)C(=O)O | InChI=1S/C12H20N4O7S.ClH/c1-12(2,24-16-23)9(10(20)14-5-8(18)19)15-7(17)4-3-6(13)11(21)22;/h6,9H,3-5,13H2,1-2H3,(H,14,20)(H,15,17)(H,18,19)(H,21,22);1H/t6-,9+;/m0./s1
